US06906067B2
5-Methyl-2,3-dihydro-isoindol-1-one
5-Methyl-2-(phenyl-allyl)-2,3-dihydro-isoindol-1-one (3.64 g, 14.61 mmol) was taken up in a 50/50 mixture of ethanol-3M HCl (100 mL) and heated to 80° C. for 12 h. The reaction mixture was cooled and the ethanol was removed under reduced pressure. The aqueous layer was extracted three times with ethyl acetate and the combined organic layers were washed with water, brine and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed under reduced pressure. The product was isolated by flash chromatography. (1:1 hexane/ethyl acetate) Yield 1.40 g. 1H NMR (CDCl3, 300 MHz): δ 2.51 (s, 3H), 4.48 9s, 2H), 7.27-7.36 (m, 2H), 7.75 (d, J=8 Hz, 1H).

reactant | 5-Methyl-2-(phenyl-allyl)-2,3-dihydro-isoindol-1-one | 14.61 mmol, 3.64 g | CC=1C=C2CN(C(C2=CC1)=O)CC=CC1=CC=CC=C1 | C18H17NO
reactant | ethanol | 3M, 100 mL | C(C)O | C2H6O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5-Methyl-2,3-dihydro-isoindol-1-one | CC=1C=C2CNC(C2=CC1)=O | C9H9NO
